US07759385B2
(4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid 4-nitrophenyl ester
The chloroformic acid 4-nitrophenyl ester (913.5 mg, 4.53 mmole) dissolved in abs. DCM (15 ml) was slowly added dropwise while cooling in ice water to a solution of (4-aminomethyl-1-phenylcyclohexyl)-dimethylamine (1 g, 4.3 mmole) in abs. DCM (15 ml) and pyridine (766 μl, 9.49 mmole). The reaction mixture was then stirred for 20 hours at RT. The red reaction mixture was worked up by washing with water (3×10 ml), with 1M HCl (3×10 ml) and with 1M NaOH (2×10 ml). The organic phase was dried with Na2SO4 and then concentrated by evaporation. The residue was a mixture of the diastereoisomers of (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid 4-nitrophenyl ester (1.25 g, reddish-brown oil, 73%).

reactant | chloroformic acid 4-nitrophenyl ester | 4.53 mmole, 913.5 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)Cl | C7H4ClNO4
reactant | (4-aminomethyl-1-phenylcyclohexyl)-dimethylamine | 4.3 mmole, 1 g | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | pyridine | 9.49 mmole, 766 μl | N1=CC=CC=C1 | C5H5N
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C22H27N3O4
